* LP passive RC circuit

* Continuous-time LP RC circuit
Vin in 0 DC 0 AC 1
R1 in outct {R}
C2 outct 0 {C2}
* SC circuit with 1st-order delay approximation
XSC11 in 1 0 SCG C_val={C1} fs_val={fs} D_val={D} delay_order=1
XSC12 outsc1 1 0 SCG C_val={C2} fs_val={fs} D_val={D} delay_order=1

* SC circuit with 2nd-order delay approximation
XSC21 in 2 0 SCG C_val={C1} fs_val={fs} D_val={D} delay_order=2
XSC22 outsc2 2 0 SCG C_val={C2} fs_val={fs} D_val={D} delay_order=2

* SC circuit with 3rd-order delay approximation
XSC31 in 3 0 SCG C_val={C1} fs_val={fs} D_val={D} delay_order=3
XSC32 outsc3 3 0 SCG C_val={C2} fs_val={fs} D_val={D} delay_order=3

* SC circuit with 4th-order delay approximation
XSC41 in 4 0 SCG C_val={C1} fs_val={fs} D_val={D} delay_order=4
XSC42 outsc4 4 0 SCG C_val={C2} fs_val={fs} D_val={D} delay_order=4

* SC circuit with 5th-order delay approximation
XSC51 in 5 0 SCG C_val={C1} fs_val={fs} D_val={D} delay_order=5
XSC52 outsc5 5 0 SCG C_val={C2} fs_val={fs} D_val={D} delay_order=5

.subckt SCG 1p1 1p2 gnd C_val=1p fs_val=1MEG D_val=0.5 delay_order=5
* SC capacitors of value C_val with sampling frequency fs_val
* The circuit uses a transconductor of value Gmeq and delayed by DT=D*T
* Because LAPLACE is not available in ngspice we use XSpice s_xfer
* The latter implements a transfer function corresponding to a rational function in s
* The function below implements a 5th-order approximation of a constant delay exp(-s*DT)
.param Req={1/(fs_val*C_val)} Gmeq={1/Req}
* Order 5
.if(delay_order=5)
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 30 -420 3360 -15120 30240]
+ den_coeff = [1 30 420 3360 15120 30240]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 30 -420 3360 -15120 30240]
+ den_coeff = [1 30 420 3360 15120 30240]
+ denormalized_freq={fs_val/(1-D_val)} )
* Order 4
.elseif(delay_order=4)
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [1 -20 180 -840 1680]
+ den_coeff = [1 20 180 840 1680]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [1 -20 180 -840 1680]
+ den_coeff = [1 20 180 840 1680]
+ denormalized_freq={fs_val/(1-D_val)} )
* Order 3
.elseif(delay_order=3)
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 12 -60 120]
+ den_coeff = [1 12 60 120]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 12 -60 120]
+ den_coeff = [1 12 60 120]
+ denormalized_freq={fs_val/(1-D_val)} )
* Order 2
.elseif(delay_order=2)
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [1 -6 12]
+ den_coeff = [1 6 12]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [1 -6 12]
+ den_coeff = [1 6 12]
+ denormalized_freq={fs_val/(1-D_val)} )
* Order 1
.else
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 2]
+ den_coeff = [1 2]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 2]
+ den_coeff = [1 2]
+ denormalized_freq={fs_val/(1-D_val)} )
.endif
R1 1p1 gnd {Req}
A1 %vd 1p2 gnd %id gnd 1p1 delay1
R2 1p2 gnd {Req}
A2 %vd 1p1 gnd %id gnd 1p2 delay2
.ends SCG
